US04113715
A mixture of 23 g of methyl nipecotate, 24.3 g of potassium carbonate, and 52 g of p-methoxybenzyl trichloroacetate in 800 ml of toluene is refluxed under nitrogen for seventy-two hours. The mixture is cooled, the toluene removed in vacuo, the residue dissolved in chloroform, and this solution washed once with 400 ml of aqueous potassium carbonate and then with 400 ml of 10% hydrochloric acid. The chloroform solution is dried and concentrated in vacuo to a viscous brown oil. Trituration of this oil with ethyl acetate affords 30.7 g of methyl N-(p-methoxybenzyl)nipecotate hydrochloride as an off-white crystalline solid. Recrystallization from ethyl acetate yields the analytical sample, m.p. 150°-154°.

reactant | methyl nipecotate | 23 g | N1CC(C(=O)OC)CCC1 | C7H13NO2
reactant | potassium carbonate | 24.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzyl trichloroacetate | 52 g | ClC(C(=O)OCC1=CC=C(C=C1)OC)(Cl)Cl | C10H9Cl3O3
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-(p-methoxybenzyl)nipecotate hydrochloride | 30.7 g | Cl.COC1=CC=C(CN2CC(C(=O)OC)CCC2)C=C1 | InChI=1S/C15H21NO3.ClH/c1-18-14-7-5-12(6-8-14)10-16-9-3-4-13(11-16)15(17)19-2;/h5-8,13H,3-4,9-11H2,1-2H3;1H
